US05998433
b) Synthesis of 6-benzyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine
To a solution of 5.603 g (27.838 mmol) of N-benzyl-2-(3-furyl)ethylamine in 50 ml of acetic acid, 2.71 g (33.4 mmol) of 37% aqueous formaldehyde was added, followed by stirring at 100° C. for 1 hour. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=9/1) to yield the desired product.

reactant | N-benzyl-2-(3-furyl)ethylamine | 27.838 mmol, 5.603 g | C(C1=CC=CC=C1)NCCC1=COC=C1 | C13H15NO
reactant | formaldehyde | 33.4 mmol, 2.71 g | C=O | CH2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 6-benzyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | C(C1=CC=CC=C1)N1CC2=C(CC1)C=CO2 | C14H15NO
